US09387200B2
b) [(7-Ethynyl-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy Example 1 from 4-hydroxy-3-methyl-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester and glycine: MS (m/z) 290.1 (M−1).

reactant | 4-hydroxy-3-methyl-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SN=C2C)O | C17H22N2O3SSi
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(7-Ethynyl-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carbonyl)-amino]-acetic acid | C(#C)C=1N=C(C(=C2C1SN=C2C)O)C(=O)NCC(=O)O | C12H9N3O4S
